US07157577B2
5-Formyl-4-methyl-1H-pyrrole-2-carboxylic acid was dissolved in dimethylformamide (0.3M) with stirring. To this was added 1-ethyl-3-(3-dimethylamino-propylcarbodiimide hydrochloride (1.2 equivalents), 1-hydroxybenzotriazole (1.2 equivalents) followed by triethylamine (2 equivalents) and 1-methylpiperazine (1 equivalent) and the reaction stirred for 12 hours (General Amidation Procedure 1). The reaction was diluted with saturated sodium bicarbonate solution, sodium hydroxide solution, brine, solid sodium chloride and extracted twice with 10% methanol in dichloromethane. The combined organic layers were washed with brine, dried over anhydrous magnesium sulfate and concentrated. The resulting oil was re-concentrated from toluene and precipitated from diethyl ether:hexanes to afford 5-(4-methyl-piperazine-1-carbonyl)-1H-pyrrole-2-carbaldehyde as a solid. MS m/z 222 [M+1].

reactant | 5-Formyl-4-methyl-1H-pyrrole-2-carboxylic acid | C(=O)C1=C(C=C(N1)C(=O)O)C | C7H7NO3
reactant | 3-dimethylamino-propylcarbodiimide hydrochloride | 1.2 equivalents | Cl.CN(CCCN=C=N)C
reactant | 1-hydroxybenzotriazole | 1.2 equivalents | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 2 equivalents | C(C)N(CC)CC | C6H15N
reactant | 1-methylpiperazine | 1 equivalent | CN1CCNCC1 | C5H12N2
solvent | dimethylformamide | 0.3M | CN(C=O)C | C3H7NO
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | sodium hydroxide | [OH-].[Na+]
solvent | brine | [Cl-].[Na+].O
solvent | sodium chloride | [Cl-].[Na+]
product | 5-(4-methyl-piperazine-1-carbonyl)-1H-pyrrole-2-carbaldehyde | CN1CCN(CC1)C(=O)C1=CC=C(N1)C=O | C11H15N3O2
